US04178449
Ethyl 2-ethyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]-pyrimidine-3-carboxylate
As for Example 1, ethyl 3-amino-5-ethyl-pyrazole-4-carboxylate is reacted with 3-dimethylamino-3'-(trifluoromethyl) acrylophenone to give the product as crystals, m.p. 142°-143° C.

reactant | ethyl 3-amino-5-ethyl-pyrazole-4-carboxylate | NC1=NNC(=C1C(=O)OCC)CC | C8H13N3O2
reactant | 3-dimethylamino-3'-(trifluoromethyl) acrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
product | Ethyl 2-ethyl-7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]-pyrimidine-3-carboxylate | C(C)C1=NN2C(N=CC=C2C=2C=C(C=CC2)C(F)(F)F)=C1C(=O)OCC | C18H16F3N3O2
